US04062848
3.4 ml tri-ethylamine is added to a solution of 4.5 g (0.025 mol) 2-benzyl-3-aminopyridine in 25 ml dry benzene. A solution of 2 ml chloro-acetyl chloride in 40 ml dry benzene is then added with stirring to this solution at a temperature of 5°-10° C. The mixture is stirred for 30 minutes at room temperature and a precipitate forms. This precipitate is redissolved by addition of 50 ml water and 50 ml benzene to the mixture. The organic phase is subsequently separated off, dried, and evaporated to dryness. The residue, a white solid, is recrystallized from a little benzene, giving 5.78 g (92%) 2-benzyl-3-chloro-acetamidopyridine of melting point 145°-147° C.

reactant | tri-ethylamine | 3.4 ml | C(C)N(CC)CC | C6H15N
reactant | 2-benzyl-3-aminopyridine | 0.025 mol, 4.5 g | C(C1=CC=CC=C1)C1=NC=CC=C1N | C12H12N2
reactant | chloro-acetyl chloride | 2 ml | ClCC(=O)Cl | C2H2Cl2O
reactant | water | 50 ml | O | H2O
solvent | benzene | 25 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 40 ml | C1=CC=CC=C1 | C6H6
solvent | benzene | 50 ml | C1=CC=CC=C1 | C6H6
product | 2-benzyl-3-chloro-acetamidopyridine | 5.78 g, 92% | C(C1=CC=CC=C1)CC(=O)NC1=NC=CC=C1Cl | C14H13ClN2O
